US07425634B2
(52a) 5-fluoro-1H-benzimidazole-2-thiol
A mixture of 3,4-diamino-1-fluorobenzene (10 g, 79.3 mmol), carbon disulfide (70 ml, 1164 mmol), and methanol (100 ml) was stirred at room temperature for 86 hours and 50 minutes. After the reaction mixture was concentrated, the residue was suspended in hexane. The resultant precipitate was collected by filtration and washed with hexane to obtain the title compound (13.1 g, yield: 98.2%) as a brown solid.

reactant | 3,4-diamino-1-fluorobenzene | 79.3 mmol, 10 g | NC=1C=C(C=CC1N)F | C6H7FN2
reactant | carbon disulfide | 1164 mmol, 70 ml | C(=S)=S | CS2
solvent | methanol | 100 ml | CO | CH4O
product | 5-fluoro-1H-benzimidazole-2-thiol | 13.1 g, yield: 98.2% | FC1=CC2=C(NC(=N2)S)C=C1 | C7H5FN2S
